US04075225
To a solution of 9-amino-6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one (2.1 g., 10 mmoles) and 4 ml. (50 mmoles) of 37% aqueous formaldehyde in 15 ml. of acetonitrite is added 1 g. (16 mmoles) of sodium cyano borohydride. A vigorous and exothermic reaction takes place and a dark residue separates. The mixture is stirred for 15 minutes and then glacial acetic acid is added dropwise until the solution tests neutral on wet pH paper. Stirring is maintained for an additional 2 hours. The volatiles are removed under vacuum, and the residue is dissolved in chloroform. The solution is washed with base and with water, dried over sodium sulfate, and concentrated to leave a residue that is purified by chromatography on silica gel. Elution with chloroform yields 9-dimethylamino-6,11-dihydro-5H-pyrrolo [2,1-b][3]benzazepin-11one as a dark brown oil.

reactant | 9-amino-6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one | 10 mmoles, 2.1 g | NC1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1 | C13H12N2O
reactant | formaldehyde | 50 mmoles | C=O | CH2O
reactant | sodium cyano borohydride | 16 mmoles | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-dimethylamino-6,11-dihydro-5H-pyrrolo [2,1-b][3]benzazepin-11one | CN(C1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1)C | C15H16N2O
